US06380242B1
To a mixture of the 6-bromo-1-((N,N-dimethylamino)ethyl)-1H-indole (54 mg, 0.2 mmol), 3-aminopyrrolidine (6 equiv.) and sodium t-butoxide (1.4 equiv.) in xylene was added palladium acetate and P(t-Bu)3 (P/Pd=4). The mixture was heated at 120° C. overnight. The reaction was then poured into ice-cold water followed by extraction with ethyl acetate (2×50 mL). The combined organic extracts were washed with brine, and dried over Na2SO4 (anhydrous). The organic layer was concentrated in vacuo and purified by flash column chromatography yielding 6-[3-Aminopyrrolidin-1-yl]-1-((N,N-dimethylamino)ethyl)-1H-indole: (43 mg of a yellow oil, 80%).

reactant | 6-bromo-1-((N,N-dimethylamino)ethyl)-1H-indole | 0.2 mmol, 54 mg | BrC1=CC=C2C=CN(C2=C1)CCN(C)C | C12H15BrN2
reactant | 3-aminopyrrolidine | 6 equiv. | NC1CNCC1 | C4H10N2
reactant | sodium t-butoxide | 1.4 equiv. | CC(C)([O-])C.[Na+]
reactant | P(t-Bu)3 | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | Pd | [Pd] | Pd
product | 6-[3-Aminopyrrolidin-1-yl]-1-((N,N-dimethylamino)ethyl)-1H-indole | NC1CN(CC1)C1=CC=C2C=CN(C2=C1)CCN(C)C | C16H24N4
